US08536183B2
(2S)-1-[(5-Bromo-3-pyridinyl)carbonyl]-2-methyl-4-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine
HATU (458 mg, 1.21 mmol) was added to a solution of 5-bromo-3-pyridinecarboxylic acid (supplied by Aldrich) (203 mg, 1.01 mmol) in DMF (4 ml) and the mixture was treated with DIPEA (0.438 ml, 2.51 mmol). This mixture was stirred for ca. 10 min at ambient temperature. (3S)-3-Methyl-1-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine (may be prepared as described in Description 2) (372 mg, 1.21 mmol) was added and stirring was continued for 1.5 h. The reaction mixture was partitioned between DCM and sat aq. NaHCO3 solution (20 ml each). The layers were separated and the aqueous was washed with further DCM (2×20 ml). The combined organic layers were concentrated to leave an dark brown gum.

reactant | HATU | 1.21 mmol, 458 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 5-bromo-3-pyridinecarboxylic acid | 1.01 mmol, 203 mg | BrC=1C=C(C=NC1)C(=O)O | C6H4BrNO2
reactant | DIPEA | 2.51 mmol, 0.438 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | (3S)-3-Methyl-1-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine | 1.21 mmol, 372 mg | C[C@H]1CN(CCN1)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C12H15F3N2O2S
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | (2S)-1-[(5-Bromo-3-pyridinyl)carbonyl]-2-methyl-4-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine | BrC=1C=C(C=NC1)C(=O)N1[C@H](CN(CC1)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C | C18H17BrF3N3O3S
